US08530503B2
4-(5-(4-ethoxy-3-nitrophenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-ol
In a microwave vial, a stirring solution of 4-ethoxy-3-nitrobenzoic acid (200 mg, 0.947 mmol) in DMF was treated with HOBt (167 mg, 1.231 mmol) and EDCI (236 mg, 1.231 mmol) at room temperature. The reaction was stirred for 20 min followed by addition, in a single portion, of N′,1-dihydroxy-2,3-dihydro-1H-indene-4-carboximidamide (200 mg, 1.04 mmol). The reaction was stirred for additional 30 min at room temperature and then heated to 130° C. for 35 min in the initiator. The reaction was diluted using a saturated solution of NaCl and extracted with EtOAc (80 ml×3). The organic phase was dried over Na2SO4 anhydrous and concentrated under reduced pressure. The product was purified by column chromatography using CH2Cl2:MeOH (9:1) to offer the product as pale yellow solid in 40% yield (150 mg).

reactant | 4-ethoxy-3-nitrobenzoic acid | 0.947 mmol, 200 mg | C(C)OC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H9NO5
reactant | HOBt | 1.231 mmol, 167 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.231 mmol, 236 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | N′,1-dihydroxy-2,3-dihydro-1H-indene-4-carboximidamide | 1.04 mmol, 200 mg | ON=C(N)C=1C=2CCC(C2C=CC1)O | C10H12N2O2
reactant | NaCl | [Na+].[Cl-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(5-(4-ethoxy-3-nitrophenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-ol | 40% yield | C(C)OC1=C(C=C(C=C1)C1=NC(=NO1)C1=C2CCC(C2=CC=C1)O)[N+](=O)[O-] | C19H17N3O5
